US05854273
Stage A: Methyl 5-methoxy-1-methyl-1H-indolecarboxylate
100 ml of a 1N solution of potassium tert-butoxide in tetrahydrofuran is added dropwise to a solution, cooled to -20° C., of 0,1 mol of methyl 5-methoxy-1H-indolecarboxylate in tetrahydrofuran. The medium is stirred for 30 minutes at this temperature, followed by dropwise addition of a solution of 0.1 mol of methyl iodide in tetrahydrofuran. Once the addition is complete, the medium is warmed slowly to room temperature, stirred for 1 h at this temperature and filtered. The expected product is obtained after concentration of the solvent.

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | methyl 5-methoxy-1H-indolecarboxylate | 0,1 mol | COC=1C=C2C=C(NC2=CC1)C(=O)OC | C11H11NO3
reactant | methyl iodide | 0.1 mol | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Methyl 5-methoxy-1-methyl-1H-indolecarboxylate | COC=1C=C2C=C(N(C2=CC1)C)C(=O)OC | C12H13NO3
